US03984549
Following the procedure of Examples 1A and 2A, 21.6 g. of 2-amino-3-methylpyridine, 42 g. of calcium carbonate and 24.5 g. of thiophosgene are converted into 3-methyl-2-pyridylisothiocyanate with a b.p. of 84° C. at 0.5 mm. of Hg. 10 G. of the freshly distilled isothiocyanate is dissolved in 100 ml. of acetonitrile and the reaction mixture carried out as in Examples 1B and 2B affording 9-methyl-3-(3-methyl-2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione m.p. 131°-132° C.

reactant | 2-amino-3-methylpyridine | NC1=NC=CC=C1C | C6H8N2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
reactant | 3-methyl-2-pyridylisothiocyanate | CC=1C(=NC=CC1)N=C=S | C7H6N2S
reactant | isothiocyanate | [N-]=C=S
solvent | acetonitrile | C(C)#N | C2H3N
product | 9-methyl-3-(3-methyl-2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione | CC1=CC=CN2C1=NC(N(C2=S)C2=NC=CC=C2C)=S | C14H12N4S2
